US06730694B1
A. Preparation of 2-Azido-3-(4-methoxythiophen-3-yl)acrylic Acid Ethyl Ester
Sodium (20.0 g, 0.870 mol) was dissolved in absolute ethanol (550 mL) and the resulting solution cooled to −15° C. A mixture of 4-methoxy-3-thiophenaldehyde (32.4 g, 0.228 mol) and ethyl azidoacetate (118 g, 0.914 mol) in absolute ethanol (30 mL) and ether (30 mL) was added slowly such that the temperature of the reaction mixture did not rise above −10° C. The mixture warmed to −40° C. over 40 min accompanied by vigorous gas evolution. After 3 h the mixture was diluted with water (1 L) and the resulting precipitate was collected via vacuum filtration to provide 31.8 g (55%) of the title compound. Recrystallization (hexanes) of an analytical sample provided yellow crystals: mp 88-90° C. 1H NMR (CDCl3) 88.14 (d, J=3.3 Hz, 1H), 6.94 (s, 1H), 6.19 (d, J=3.3 Hz, 1H), 4.35 (q, J=7.0 Hz, 2H), 3.86 (s, 3H), 1.41 (t, J=7.0 Hz, 3H); MS ES+m/e 254 (p+1); IR (KBr, cm−1) 2114, 1700, 1256. Anal. Calcd for C10H11N3O3S: C, 47.42; H, 4.38; N, 16.59. Found: C, 47.09; H, 4.46; N, 15.87.

reactant | Sodium | 0.870 mol, 20.0 g | [Na] | Na
reactant | 4-methoxy-3-thiophenaldehyde | 0.228 mol, 32.4 g | COC=1C(=CSC1)C=O | C6H6O2S
reactant | ethyl azidoacetate | 0.914 mol, 118 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
solvent | ethanol | 550 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | water | 1 L | O | H2O
product | 2-Azido-3-(4-methoxythiophen-3-yl)acrylic Acid Ethyl Ester | 31.8 g, 55% | C(C)OC(C(=CC1=CSC=C1OC)N=[N+]=[N-])=O | C10H11N3O3S
